US09302989B2
4-(but-3-enyloxy)-6-chloroquinolin-2(1H)-one
To a solution of 6-chloro-4-hydroxyquinolin-2(1H)-one (800 mg, 4.09 mmol) and N,N-diisopropylethylamine (1415 μl, 8.18 mmol) in dimethylformamide (13.6 ml) was added 4-bromo-1-butene (415 μl, 4.09 mmol). The solution was heated to 60° C. and stirred for 18 hours. The reaction mixture was purified by column chromatography to provide the title compound.

reactant | 6-chloro-4-hydroxyquinolin-2(1H)-one | 4.09 mmol, 800 mg | ClC=1C=C2C(=CC(NC2=CC1)=O)O | C9H6ClNO2
reactant | N,N-diisopropylethylamine | 8.18 mmol, 1415 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-bromo-1-butene | 4.09 mmol, 415 μl | BrCCC=C | C4H7Br
solvent | dimethylformamide | 13.6 ml | CN(C=O)C | C3H7NO
product | 4-(but-3-enyloxy)-6-chloroquinolin-2(1H)-one | C(CC=C)OC1=CC(NC2=CC=C(C=C12)Cl)=O | C13H12ClNO2
